* eeschema netlist version 1.1 (spice format) creation date: thursday 16 may 2013 11:43:12 am ist

* Plotting option vplot8_1
V_u2 7 4 0
V_u1 5 1 0
v1  3 0 10
* Plotting option vplot8_1
r2  6 0 10m
r1  3 6 10m
r4  4 0 6k
r3  3 5 6k
m1  1 6 7 mos_n

.dc  v1 0e-00 10e-00 1e-00

* Control Statements 
.control
run
plot v(6) v(7) 
plot i(V_u2)
plot i(V_u1)
plot v(1) 
.endc
.end
